US08048909B2
4-Chloro-2-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde
Using ethyl 4-chloro-2-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate (610 mg), a 1.5 mol/L solution (6.0 mL) of diisobutylaluminum hydride in toluene, tetra-n-propylammonium perruthenate (53 mg), N-methylmorpholine N-oxide (195 mg) and molecular sieves 4A powder (300 mg), a procedure as in Reference Example 49 was performed to give the title compound as a pale-yellow solid (yield 301 mg, 55%).

reactant | ethyl 4-chloro-2-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | 610 mg | ClC=1C(=C(N(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C)C(=O)OCC | C20H18ClNO4S
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | N-methylmorpholine N-oxide | 195 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-propylammonium perruthenate | 53 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 4-Chloro-2-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carbaldehyde | yield 301 mg, 55% | ClC=1C(=C(N(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C)C=O | C18H14ClNO3S
